US05550149
α-(5-Chlorohexyl)-3,4-dimethoxy-α-[(4-methylphenyl)-thio]benzeneacetonitrile
The procedure of Example 15 is repeated using 3.8 g of 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 2.66 g of 1-bromo-5-chlorohexane. This affords 4.35 g of the desired product as a colorless oil.

reactant | 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 3.8 g | COC=1C=C(C=CC1OC)C(C#N)SC1=CC=C(C=C1)C | C17H17NO2S
reactant | 1-bromo-5-chlorohexane | 2.66 g | BrCCCCC(C)Cl | C6H12BrCl
product | α-(5-Chlorohexyl)-3,4-dimethoxy-α-[(4-methylphenyl)-thio]benzeneacetonitrile | 4.35 g | ClC(CCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C)C | C23H28ClNO2S
